US06608203B2
2,2,2-Trifluoro-1-[6-hydroxy-1-(4-iodophenyl)-3,4-dihydro-1H-isoquinolin-2-yl]ethanone
A 1M solution of BBr3 in CH2Cl2 (0.49 ml, 0.49 mmol) was added slowly to a solution of 2,2,2-trifluoro-1-[1-(4-iodophenyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]ethanone (0.150 g, 0.33 mmol) in anhydrous CH2Cl2 (10 ml) at 0° C. under N2. The reaction mixture was stirred at 0° C. for 1 hr, then warmed to rt and stirred at rt for 19 hr. MeOH (10 ml) was slowly added with stirring and the resulting solution was concentrated in vacuo to a yellow oil. Purification by flash chromatography, eluting with hexane:EtOAc (8:2) gave 0.121 g (83% yield) of yellow solid.

reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | 2,2,2-trifluoro-1-[1-(4-iodophenyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]ethanone | 0.33 mmol, 0.150 g | FC(C(=O)N1C(C2=CC=C(C=C2CC1)OC)C1=CC=C(C=C1)I)(F)F | C18H15F3INO2
reactant | MeOH | 10 ml | CO | CH4O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.49 mmol, 0.49 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-[6-hydroxy-1-(4-iodophenyl)-3,4-dihydro-1H-isoquinolin-2-yl]ethanone | 0.121 g, 83% yield | FC(C(=O)N1C(C2=CC=C(C=C2CC1)O)C1=CC=C(C=C1)I)(F)F | C17H13F3INO2
